US06462069B2
4-Isothiocyanato-benzenesulfonamide (750 mg, 3.5 mmol), and tert-butyldimethylsilyl chloride (528 mg, 3.5 mmol) stirred in dry THF (20 mL) at 0° C. Sodium hydride (210 mg, 60% in mineral oil, 5.25 mmol) was added, and the reaction stirred for 1 h before it was poured over H2O (50 mL) and extracted with ether (2×50 mL). Organics were washed with brine (25 mL), dried (Na2SO4), and concentrated in vacuo. Purification by silica gel chromatography gave 920 mg (80%) of 4-isothiocyanato-N-(TBDMS)-benzenesulfonamide as a white solid. 1H NMR (300 MHz, CDCl3) δ7.86 (d, 2H, J=6.9 Hz), 7.31 (d, 2 H, J=6.9 Hz), 4.40 (s, 1H), 0.90 (s, 9H), 0.22 (s, 6H). Anal. (C13H20N2O2S2Si) C, H, N, S. Calculated C=47.53; H=6.14; N=8.53; S=19.52; found C=47.47; H=6.25; N=8.46; S=19.49.

reactant | 4-Isothiocyanato-benzenesulfonamide | 3.5 mmol, 750 mg | N(=C=S)C1=CC=C(C=C1)S(=O)(=O)N | C7H6N2O2S2
reactant | tert-butyldimethylsilyl chloride | 3.5 mmol, 528 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | Sodium hydride | 5.25 mmol, 210 mg | [H-].[Na+]
reactant | H2O | 50 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-isothiocyanato-N-(TBDMS)-benzenesulfonamide | 920 mg, 80% | N(=C=S)C1=CC=C(C=C1)S(=O)(=O)N[Si](C)(C)C(C)(C)C | C13H20N2O2S2Si
